US04980356
The procedure is as in Example 3, starting with N-ethyl-2-(p-trifluoromethoxyanilino)ethanesulphonamide (6.1 g), potassium thiocyanate (7.6 g) and bromine (3.6 g) in acetic acid (60 cc). After 18 hours at a temperature in the region of 20° C., neutralization with 30% strength sodium hydroxide and extraction with ethyl acetate, a crude product is obtained, which product is converted to a hydrochloride by adding 4.2N ethereal hydrogen chloride (5 cc) in ethanol (30 cc) and recrystallized in absolute ethanol (50 cc). N-Ethyl-2-(2-imino-6-trifluoromethoxy-3-benzothiazolinyl)ethanesulphonamide hydrochloride (3.0 g), m.p. 240° C., is thereby obtained.

reactant | N-ethyl-2-(p-trifluoromethoxyanilino)ethanesulphonamide | 6.1 g | C(C)NS(=O)(=O)CCNC1=CC=C(C=C1)OC(F)(F)F | C11H15F3N2O3S
reactant | potassium thiocyanate | 7.6 g | [S-]C#N.[K+]
reactant | bromine | 3.6 g | BrBr | Br2
reactant | hydrochloride | Cl | ClH
reactant | hydrogen chloride | 4.2N, 5 cc | Cl | ClH
solvent | acetic acid | 60 cc | C(C)(=O)O | C2H4O2
solvent | ethanol | 30 cc | C(C)O | C2H6O
product | N-Ethyl-2-(2-imino-6-trifluoromethoxy-3-benzothiazolinyl)ethanesulphonamide hydrochloride | 3.0 g | Cl.C(C)NS(=O)(=O)CCN1C(SC2=C1C=CC(=C2)OC(F)(F)F)=N | InChI=1S/C12H14F3N3O3S2.ClH/c1-2-17-23(19,20)6-5-18-9-4-3-8(21-12(13,14)15)7-10(9)22-11(18)16;/h3-4,7,16-17H,2,5-6H2,1H3;1H
